US08957068B2
tert-butyl 1-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)piperidin-4-ylcarbamate
Title compound was prepared as a white solid (32 mg, 59% yield), with procedures similar to those used to prepare Intermediate 128, but utilizing 4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde and tert-butyl piperidin-4-ylcarbamate. MS m/z 539.4 (M+H).

reactant | 4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=O)C=C1 | C19H22N4O3
reactant | tert-butyl piperidin-4-ylcarbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | tert-butyl 1-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)piperidin-4-ylcarbamate | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(CN2CCC(CC2)NC(OC(C)(C)C)=O)C=C1 | C29H42N6O4
